US04123546
Initially 10-iodo-11-nitro-5H-dibenzo[a,d]cyclohepten-5-one is contacted with pyridine to form 10-nitro-5H-dibenzo[a,d]cyclohepten-5-one. This compound is reduced to 10,11-dihydro-10-hydroximino-5H-dibenzo[a,d]cyclohepten-5-one employing a solution of stannous chloride in concentrated hydrochloric acid and tetrahydrofuran generally at 0°-50° C. for 2-16 hours.

reactant | 10-iodo-11-nitro-5H-dibenzo[a,d]cyclohepten-5-one | IC1=C(C2=C(C(C3=C1C=CC=C3)=O)C=CC=C2)[N+](=O)[O-] | C15H8INO3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 10-nitro-5H-dibenzo[a,d]cyclohepten-5-one | [N+](=O)([O-])C1=CC2=C(C(C3=C1C=CC=C3)=O)C=CC=C2 | C15H9NO3
